data/oMe_Silver.jsonl
{"reaction_id": "NR-146_1-c2ccccc2_2-c2ccc(cc2)c3ccccc3_3-c2ccccc2","name": "Mitsunobu Reaction","level": "medium","reactants_smiles": ["[C@@H](O)(c2ccccc2)(c2ccc(cc2)c3ccccc3)","O=C(O)c2ccccc2","c1ccccc1P(c2ccccc2)c3ccccc3","CCOC(=O)N=NC(=O)OCC"],"products_smiles": ["[C@H](OC(=O)c2ccccc2)(c2ccccc2)(c2ccc(cc2)c3ccccc3)"],"conditions": "Ph3P, CCOC(=O)N=NC(=O)OCC","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N([N-]C(=O)OCC)C(=O)OCC","rationale": "Triphenylphosphine attacks the electrophilic azo carbonyl due to its strong nucleophilicity, forming a phosphonium intermediate stabilized by resonance with adjacent carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c2ccccc2)(c3ccccc3)N(NC(=O)OCC)C(=O)OCC.[O-]C(=O)c2ccccc2","rationale": "The acidic proton of c2ccccc2–COOH is abstracted by the basic intermediate, driven by the stability of the resulting carboxylate anion and the favorable formation of a neutral phosphonium species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@@H](O[P+](c1ccccc1)(c2ccccc2)c3ccccc3)(c2ccccc2)(c2ccc(cc2)c3ccccc3).[O-]C(=O)c2ccccc2","rationale": "The alcohol oxygen attacks the electrophilic phosphonium center, forming an oxyphosphonium intermediate; this activates the adjacent carbon for nucleophilic substitution by making it a better leaving group."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[C@H](OC(=O)c2ccccc2)(c2ccccc2)(c2ccc(cc2)c3ccccc3)","rationale": "The carboxylate anion attacks the activated carbon in an SN2 fashion, favored by the excellent leaving ability of triphenylphosphine oxide and the reaction’s stereospecific inversion requirement."}],"description": "In the Mitsunobu reaction, triphenylphosphine activates the azo reagent to form a reactive intermediate, which deprotonates the acid to generate a nucleophilic anion. This anion then displaces the alcohol via inversion, yielding the ester product under mild, stereospecific conditions."}
{"reaction_id": "NR-336_1-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_2-C(F)(F)F_3-c1ccccc1","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(C(F)(F)F)C(=O)c1ccccc1)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"products_smiles": ["CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2c1nc(C(F)(F)F)c(c1ccccc1)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(C(F)(F)F)C(=[OH+])c1ccccc1)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C1=[NH+]C(C(F)(F)F)C(O)(c1ccccc1)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2C1=NC(C(F)(F)F)C([OH2+])(c1ccccc1)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2c1nc(C(F)(F)F)c(c1ccccc1)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
